US08685364B2
In a first step a 500 mL flask was charged with 13.002 g (100 mmol) of [ClCH2CH2CH2NH3]Cl that was dissolved in 300 mL of CH2Cl2 and 46.4 mL (300 mmol) of triethylamine. After ca. 10 min, a precipitate began to evolve. The flask was cooled to 0° C. and a solution containing 28.2 mL (222.2 mmol) of TMSCl and 50 mL of CH2Cl2 was added slowly over 2 h. The solution was stirred for an additional 2 h and then allowed to return to ambient temperature where it was stirred for 3 days. The supernatant liquid was decanted and then all volatile components were remove in vacuo to produce both a solid residue and a liquid. The liquid was extracted using ca. 200 mL of hexanes and subsequently the volatile components were removed under reduced pressure to yield 18.3898 g (77.30 mmol, 77.3%) of ClCH2CH2CH2N(SiMe3)2 as a colorless liquid. The product had the following NMR features: 1H NMR (300 MHz, CD3CN) δ=0.11 (s, —Si(CH3)3, 18H), 1.83 (m, CH2N, 2H, JHH=5.29 Hz), 3.52 (t, ClCH2, 2H, JHH=6.3 Hz); 13C{1H} NMR (75 MHz, CD3CN) 2.30, 38.50, 43.74, 43.93.

reactant | triethylamine | 300 mmol, 46.4 mL | C(C)N(CC)CC | C6H15N
reactant | TMSCl | 222.2 mmol, 28.2 mL | C[Si](C)(C)Cl | C3H9ClSi
reactant | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | ClCH2CH2CH2N(SiMe3)2 | 77.30 mmol, 18.3898 g, 77.3% | ClCCCN([Si](C)(C)C)[Si](C)(C)C | C9H24ClNSi2
